US06943180B2
A mixture trans-3-hydroxy-(L)-proline (Acros, 5.0 g, 38 mmol), benzyl alcohol (8.0 mL, 76 mmol) and pTSA (7.4 g, 38 mmol) in 30 mL of benzene was refluxed overnight while water was removed using a Dean-Stark apparatus. The reaction mixture was cooled to rt, and was concentrated in vacuo to dryness. The residue was dissolved in CH2Cl2 (50 mL) and TEA (32 mL, 0.23 mol) and chlorotrimethylsilane (19 mL, 0.15 mol) were added. After heating the solution at 70° C. for 1 h, the reaction mixture was cooled to 0° C., and MeOH (3.1 mL, 76 mmol) was added. After stirring at rt for 1 h, a solution of trityl chloride (16 g, 57 mmol) in 50 mL of CH2Cl2 followed by TEA (8.0 mL, 57 mmol) were added. After stirring at rt for 3 days, the reaction mixture was diluted with 150 mL of EtOAc, and the precipitates were removed by filtering through celite. The filtrate was concentrated in vacuo to dryness, and the residue was stirred with K2CO3 (2.2 g) in MeOH (100 mL) for 5 h at rt. The reaction mixture was diluted with THF (100 mL), and a solution of KF (8.8 g) in 40 mL of water was added. After stirring at rt overnight, the reaction mixture was cooled to 0° C., diluted with EtOAc (100 mL), and neutralized by careful addition of 0.5 M aqueous sodium bisulfate. The reaction mixture was partitioned in water and EtOAc, and the product was extracted with EtOAc (3×). The combined extracts were dried over anhydrous MgSO4, filtered and concentrated in vacuo to dryness. The residue was purified by flash column chromatography on silica gel eluted with 4:1 to 1:4 hexane/Et2O to afford N-trityl-3(S)-hydroxy-(L)-proline, benzyl ester (8.8 g, 49%).

reactant | trans-3-hydroxy-(L)-proline | 38 mmol, 5.0 g | O[C@@H]1[C@H](NCC1)C(=O)O | C5H9NO3
reactant | benzyl alcohol | 76 mmol, 8.0 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | pTSA | 38 mmol, 7.4 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | chlorotrimethylsilane | 0.15 mol, 19 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | MeOH | 76 mmol, 3.1 mL | CO | CH4O
reactant | trityl chloride | 57 mmol, 16 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-trityl-3(S)-hydroxy-(L)-proline, benzyl ester | 8.8 g, 49% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@H](C(=O)OCC2=CC=CC=C2)[C@H](CC1)O | C31H29NO3
